US05587372
STEP A: [2-chloro-3,4-bis-[(2-methoxy-ethoxy)-methoxy]-phenyl]-hydroxy acetic acid
2.42 g of lithium chloride and 7.02 g of potassium hydroxide were dissolved in 30 ml of water at 0° C. and a solution of 10 g of 2-chloro-3,4-bis-[(2-methoxy-ethoxy)-methoxy]benzaldehyde (synthesized in Preparation 1), 2.8 ml of bromoform and 38 ml of dioxane were added to this mixture. The mixture was stirred for 24 hours at 0° C. and then another 2.8 ml of bromoform were added. The mixture stood for 16 hours and after dilution with 100 ml of water, the solution was washed with ether, decanted, cooled to 0° C. and acidified until the pH was 2.5-3. Extraction was carried out with ether and the organic phase was washed with water and dried. The solvent was driven off to collect 11.4 g of the desired product in the form of an oil with a Rf=0.1 [eluant: methylene chloride-methanol-acetic acid (89-10-1)].

reactant | lithium chloride | 2.42 g | [Cl-].[Li+]
reactant | potassium hydroxide | 7.02 g | [OH-].[K+]
reactant | 2-chloro-3,4-bis-[(2-methoxy-ethoxy)-methoxy]benzaldehyde | 10 g | ClC1=C(C=O)C=CC(=C1OCOCCOC)OCOCCOC | C15H21ClO7
reactant | bromoform | 2.8 ml | C(Br)(Br)Br | CHBr3
reactant | bromoform | 2.8 ml | C(Br)(Br)Br | CHBr3
reactant | dioxane | 38 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | [2-chloro-3,4-bis-[(2-methoxy-ethoxy)-methoxy]-phenyl]-hydroxy acetic acid | ClC1=C(C=CC(=C1OCOCCOC)OCOCCOC)C(C(=O)O)O | C16H23ClO9
